US09108999B2
(S)-isopropyl 2-aminopropanoate hydrochloride (Oakwood, 1.28 g, 7.64 mmol) and naphthalen-1-yl phosphorodichloridate (2 g, 7.66 mmol) was suspended in anhydrous DCM (35 mL). The reaction was cooled to −78° C. Triethylamine (1.55 g, 2.13 mL, 15.3 mmol) was added dropwise. The reaction mixture was stirred at −78° C. for 1 h, then warmed up to room temperature and stirred for 5 h. The solvent was removed, and the residue was washed with dry ethyl ether and filtered. The filtrate was concentrated to give crude (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate as a light yellow oil (2.5 g, 92%) and used without further purification.

reactant | (S)-isopropyl 2-aminopropanoate hydrochloride | 7.64 mmol, 1.28 g | Cl.N[C@H](C(=O)OC(C)C)C
reactant | naphthalen-1-yl phosphorodichloridate | 7.66 mmol, 2 g | P(OC1=CC=CC2=CC=CC=C12)(=O)(Cl)Cl | C10H7Cl2O2P
reactant | Triethylamine | 15.3 mmol, 2.13 mL, 1.55 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | (2S)-isopropyl 2-(chloro(naphthalen-1-yloxy)phosphorylamino)propanoate | 2.5 g, 92% | ClC1=C(C2=CC=CC=C2C=C1)OP(=O)=N[C@H](C(=O)OC(C)C)C | C16H17ClNO4P
